datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[Cl:7]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][Cl:7],4.40002
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[O:22][O:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])[H:8].[H:9][O:22][O:23],0.0
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15])[H:3],53.3878
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][O:23],7.983072
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19],15.5226
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]=[C:8]([S:9][H:11])[H:10]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:10])([H:4])[H:5].[S:7]=[C:8][S:9][H:11],53.9736
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15],28.8696
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])[H:12],46.275
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14](=[S:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:16])[H:7])([H:5])[H:6].[C:14](=[S:15])[H:17],118.575
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20])([H:4])[H:5],6.10864
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][H:7],3.7656
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])[H:11],58.827
[C:0]([C:1](=[O:2])[O:3][C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[H:10]>>[C:0]([C:1](=[O:2])[O:3][C:4]([H:7])([H:8])[H:9])([H:5])([H:6])[H:10],0.0
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:12])([H:13])[H:14])([H:11])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1.[O:8][H:19],67.082072
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:25])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]([C:12]([H:21])([H:22])[H:23])[H:24])([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:25])[H:5],45.1872
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5](=[C:6]([H:18])[H:19])[H:17])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5]1([C:6]([H:18])[H:19])[H:17],51.8816
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20])[H:6],52.049
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[S:7][H:8]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][S:7][H:8],30.2
